US07132436B2
2,4,6-Trichloro-N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(5-chloro-2-thienyl)-1,3-thiazol-2-amine and 2,4,6-trichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (24.0 mg) with purity >90%. MS (pos) m/z 461.0, 463.0.

reactant | 4-(5-chloro-2-thienyl)-1,3-thiazol-2-amine | ClC1=CC=C(S1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,6-Trichloro-N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C=1SC(=CC1)Cl | C13H6Cl4N2O2S3
